US06441214B1
Isopropylidene Glycerol Scheme II Compound 1
Freshly distilled glycerol (10 g, 0. 11 mole) was shaken until dissolved with 65 mL of dry acetone containing 1 g of TsOH. After 24 hr. the solution was neutralized first with PbCO3 and afterwards with Ag2CO3, warmed with charcoal, and shaken with a large excess of CaCI2 overnight. The supernatant liquid was then filtered. The solvent was removed by rotary evaporation, and the product fractionated under diminished pressure, giving 9.5 g of the main fraction (b.p. 105-106° C./25 mm) Y=65.4%. NMR: 1H: δ (ppm) 4.14-4.16 (m,1H, CH), 3.65-4.0 (qxd, 2H, CH2),3.57 (m, 2H, CH2OH), 2.05 (sb. 1H,OH), 1.40, 1.33 (CH3); 13C: δ (ppm) 109.4 (COO), 76.1 (CH), 65.7 (CH2O), 62.8 (CH2OH), 26.6, 25.2 (CH3).

reactant | glycerol | 11 mole, 10 g | OCC(O)CO | C3H8O3
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | charcoal | C | CH4
solvent | acetone | 65 mL, 1 g | CC(=O)C | C3H6O
product | Isopropylidene Glycerol | C(C)(C)=C(O)C(O)CO | C6H12O3
